datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCCC[Si](CCCC)(CCCC)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CCCC[Si](CCCC)(CCCC)[C:13]1=[O+:14][CH:10]([CH:20]([C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC12C3(C)C4(C)C5(C)C1(C)[Cr-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC12C3(C)C4(C)C5(C)C1(C)[Cr-2:11]2345(C#[O+])(C#[O+])C#[O+].CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"CC[Hg:11][CH2:10]C.[CH2:20]=[CH:21][C:22]#[N:23]>>CC[Hg+:11].C[CH2:10][CH2:20][CH:21]=[C:22]=[N-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)C=C1.C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1>>C1=CC=C([Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N+:12]2=[CH:11][CH:10](C2=CC=CC=C2)[CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC[C:33]4=[CH:32]2)CCC3)[CH:51]=[CH:52][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)C=C1 10,11=10,20;12=11,12"
"ClC[N+]12CC[N+:21]([F:20])(CC1)CC2.[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>ClC[N+]12CC[N:21](CC1)CC2.[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([F:20])[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20;20,21=21"
"CC[C:11](C)=[CH2:10].[C:20](=[S:21])=[S:31]>>CC[C+:11](C)[CH2:10][C:20]([S-:21])=[S:31] 10,11=10,20;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[C:11](=[CH2:10])[CH2:62][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][C+:11](C)[CH2:62][Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CCC[NH:10]CCC.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32]>>CCC[NH+:10](CCC)[CH:20]([C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])[C:31](=[O:32])[O:33]CC 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C/[C:11](=[CH:10]/[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10]([C:11](C)=[O:12])[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1 10,11=10,20;12=11,12;20,21=21"
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C3=C(C=CC=C3)[O:62]2)S1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C+:20]([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65>>CC1=CC=[C:10]([C:20]([C:31]#[C:32][C:33]23C4C5C6C7C2[Cr-3:34]65743(C#[O+])(C#[O+])C#[O+])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)S1.FC(F)(F)C1=CC=C([B-:11]2=[O+:12]C3=C(C=CC=C3)[O:62]2)C=C1 10,11=10,20;12=11,12"
O=C(C1=CC=CC=C1)[CH-:10][N+:61]1=[CH:62][CH:63]=[CH:64][C:71]2=[C:72]1C=CC=C2.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>O=C(C1=CC=CC=C1)[CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[N+:61]1=[CH:62][CH:63]=[CH:64][C:71]2=[C:72]1C=CC=C2 10=20
C[NH:61][NH2:10].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[NH:61][NH2+:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10=20
"CC[N:72](CC)[C:61]([CH-:10][C:81](C)=[O:82])=[O:62].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>CC[N:72](CC)[C:61]([CH:10]([CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:36]=[CH:35]1)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21"
CO[C:62]([CH:61]1CCC[NH:10]1)=[O:63].FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:62]([CH:61]1CCC[NH+:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(CC(F)(F)F)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C2=CC=CC=C2)[CH:45]=[CH:46]1)=[O:63] 10=20
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.[H:10][BH3-:11]>>C1=CC=C([C:22]2=[CH:21][CH:20]([H:10])[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1.[BH3:11] 10,11=10,20;20,21=21,22;22,23=23"
